US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(4-methylsulfinylphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(4-methylsulfinylphenyl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide, the title compound was prepared. Chromatography with dichloromethane:methanol followed by conversion to the hydrochloride salt gave a white solid; mp 94°-125° C.; MS: 557; NMR (CD3OD): 1.8-2.3 (m, 6), 2.8 (s, 6), 2.8-3.3 (br, 6), 3.4-3.9 (m, 4), 7.9-7.7 (m, 12). Analysis for C30H34Cl2NO2S·1.0 HCl·1.5 H2O: Calculated: C, 58.02; H, 6.17; N, 4.51; Found: C, 57.74; H, 6.00; N, 5.01.

reactant | 4-(4-methylsulfinylphenyl)piperidine | CS(=O)C1=CC=C(C=C1)C1CCNCC1 | C12H17NOS
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | H2O | O | H2O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(4-methylsulfinylphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=CC=C(C=C1)S(=O)C | InChI=1S/C30H34Cl2N2O2S.ClH/c1-33(30(35)24-6-4-3-5-7-24)21-26(25-10-13-28(31)29(32)20-25)16-19-34-17-14-23(15-18-34)22-8-11-27(12-9-22)37(2)36;/h3-13,20,23,26H,14-19,21H2,1-2H3;1H/t26-,37?;/m1./s1
